simulator lang=spectre
global 0

ahdl_include "./dut/samplehold_rising_edge.va"

Vcontrol (control 0) vsource type=pwl wave=[0 0 0.45n 0 0.47n 5 0.75n 5 0.77n 0 1.95n 0 1.97n 5 2.25n 5 2.27n 0 3.5n 0]
Vin (vin 0) vsource type=pwl wave=[0 1.0 1.2n 1.0 1.25n 3.0 2.7n 3.0 2.75n 4.2 3.5n 4.2]
XDUT (control vin vout) samplehold_rising_edge

simulatorOptions options evas_profile=balanced

tran tran stop=3.2n maxstep=5p
save control vin vout
