simulator lang=spectre
global 0

ahdl_include "./dut/saturation_recovery_limiter.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.42 2n 0.42 2.05n 0.88 4n 0.88 4.05n 0.08 6n 0.08 6.05n 0.58 8n 0.58 8.05n 0.94 10n 0.94 10.05n 0.24 12n 0.24]
Ven (en 0) vsource type=pwl wave=[0 0.9 8.6n 0.9 8.65n 0 10.2n 0 10.25n 0.9 12n 0.9]

XDUT (vin en out sat recovery_metric) saturation_recovery_limiter


simulatorOptions options evas_profile=balanced

tran tran stop=12n maxstep=10p
save vin en out sat recovery_metric time
