simulator lang=spectre
global 0

ahdl_include "./dut/settling_time_measurement_tb.va"

Vstep (step 0) vsource type=pwl wave=[0 0 15n 0 16n 0.85 170n 0.85]

XDUT (step vout done) settling_time_measurement_tb


tran tran stop=170n maxstep=500p
save step vout done
