simulator lang=spectre
global 0

ahdl_include "./dut/settling_time_measurement_tb.va"

Vstep (step 0) vsource type=pwl wave=[0 0 20n 0 21n 0.8 160n 0.8]

XDUT (step vout done) settling_time_measurement_tb


simulatorOptions options evas_profile=balanced

tran tran stop=160n maxstep=500p
save step vout done
