simulator lang=spectre
global 0

ahdl_include "./dut/sine_vco_idtmod_bound_step.va"

// Hidden testbench for sine_vco_idtmod_bound_step.
// Constant vin = 0.4 V => freq_q = 20.0e6 + 40.0e6*0.4 = 36 MHz (~14 ns/cycle).
// maxstep=8n alone would under-resolve; $bound_step(1/(40*36e6))~0.69n enforces 40 pts/cycle.

Vvin (vin 0) vsource dc=0.4 type=dc

XDUT (vin out metric) sine_vco_idtmod_bound_step


tran tran stop=1.5u maxstep=8n
save vin out metric
