simulator lang=spectre
global 0

ahdl_include "./dut/tool_4bit_sar_signed_dac.va"

Vsh (sh 0) vsource type=pulse val0=0 val1=1.8 delay=0.50n period=0.90n width=0.25n rise=20p fall=20p
Vd0 (d0 0) vsource type=pwl wave=[0 0 1.10n 0 1.15n 1.8 2.00n 1.8 2.05n 0 2.90n 0 2.95n 1.8 4.50n 1.8]
Vd1 (d1 0) vsource type=pwl wave=[0 1.8 1.10n 1.8 1.15n 1.8 2.00n 1.8 2.05n 0 4.50n 0]
Vd2 (d2 0) vsource type=pwl wave=[0 0 2.00n 0 2.05n 1.8 3.80n 1.8 3.85n 0 4.50n 0]
Vd3 (d3 0) vsource type=pwl wave=[0 1.8 1.10n 1.8 1.15n 0 2.00n 0 2.05n 1.8 2.90n 1.8 2.95n 0 3.80n 0 3.85n 1.8 4.50n 1.8]
XDUT (d0 d1 d2 d3 sh aout) tool_4bit_sar_signed_dac

tran tran stop=4.4n maxstep=5p
save sh d0 d1 d2 d3 aout
